US06727264B1
According to the procedure used for the synthesis of tert-butyl 4-[3-(propionylamino)phenyl]-1-piperidinecarboxylate, tert-butyl 4-(3-aminophenyl)-1-piperidinecarboxylate (16.47 g 0.0596 mol) and cyclopropanecarbonyl chloride (6.27 g, 0.0597 mol) provided the tert-butyl 4-{3-[(cyclopropylcarbonyl)amino]phenyl}-1-piperidinecarboxylate (18.1 g, 100%). 1H NMR (400 MHz, CDCl3) δ 7.55-7.46 (m, 2H), 7.29-7.21 (m, 2H), 6.96-6.89 (m, 1H), 2.79 (t, 2H, J 12.1 Hz), 2.68-2.58 (m, 1H), 1.84 (d, 2H, J=12.6 Hz), 1.83-1.76 (m, 4H), 1.48 (s, 9H), 1.19-1.12 (m, 1H), 1.09-1.05 (m, 2H), 0.89-0.75 (m, 2H); ESMS m/e: 345.5 (M+H)+.

reactant | tert-butyl 4-[3-(propionylamino)phenyl]-1-piperidinecarboxylate | C(CC)(=O)NC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H28N2O3
reactant | tert-butyl 4-(3-aminophenyl)-1-piperidinecarboxylate | 0.0596 mol, 16.47 g | NC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | cyclopropanecarbonyl chloride | 0.0597 mol, 6.27 g | C1(CC1)C(=O)Cl | C4H5ClO
product | tert-butyl 4-{3-[(cyclopropylcarbonyl)amino]phenyl}-1-piperidinecarboxylate | 18.1 g, 100% | C1(CC1)C(=O)NC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H28N2O3
